US07268152B2
A solution of 2-chloro-4-cyanotoluene (606 mg) in THF/DMPU (1:1, 8 mL) was treated dropwise with LDA (1.8 M in heptane/ethylbenzene/THF, 2.44 mL) at −78° C. After 30 minutes, 3-(2,3-dihydrobenzofur-7-yl)-3-methylbutanal (400 mg) was added in THF (1 mL) and the mixture was subsequently warmed to room temperature. After 1 hour, 5 mL of saturated ammonium chloride solution was added. The organic phase was separated and the aqueous layer was extracted with 20 mL of ethyl acetate. The combined organic phases were washed with three 10 mL portions of water and dried over magnesium sulfate. The solvent was removed. Flash chromatography (hexanes-EtOAc (gradient from 10:1 to 5:1)) of the residue yielded 460 mg (66%) of 1-(2-chloro-4-cyanophenyl)-4-(2,3-dihydrobenzofur-7-yl)-4-methyl-2-pentanol as a colorless oil.

reactant | 2-chloro-4-cyanotoluene | 606 mg | ClC1=C(C=CC(=C1)C#N)C | C8H6ClN
reactant | LDA | 1.8 M, 2.44 mL | [Li+].CC(C)[N-]C(C)C
reactant | 3-(2,3-dihydrobenzofur-7-yl)-3-methylbutanal | 400 mg | O1CCC2=C1C(=CC=C2)C(CC=O)(C)C | C13H16O2
reactant | ammonium chloride | 5 mL | [Cl-].[NH4+]
solvent | THF DMPU | 8 mL | C1CCOC1.CN1CCCN(C1=O)C
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 1-(2-chloro-4-cyanophenyl)-4-(2,3-dihydrobenzofur-7-yl)-4-methyl-2-pentanol | 460 mg, 66% | ClC1=C(C=CC(=C1)C#N)CC(CC(C)(C)C1=CC=CC=2CCOC21)O | C21H22ClNO2
